US06384033B1
N-(2-Fluoro-1,1-dimethylethyl)-2,4-difluorobenzamide
WSC HCl (1.15 g, 6 mmol) was added to a mixture of 2,4-difluorobenzoic acid (0.95 g, 6 mmol), 2-fluoro-1,1-dimethylethylamine hydrochloride (J. Med. Chem., 34, 29-37(1991): 0.77 g, 6 mmol), HOBt (0.81 g, 6 mmol) and triethylamine (0.91 g, 9 mmol) in methylene chloride (15 ml), and stirred at room temperature for 3 hours. The reaction mixture was concentrated, diluted with ethyl acetate and washed with saturated aqueous NaHCO3, 1N hydrochloric acid, saturated aqueous NaHCO3 and brine, successively, dried over MgSO4 and concentrated under a reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=20/1) to give the title compound (0.61 g; 44%).

reactant | WSC HCl | 6 mmol, 1.15 g | CCN=C=NCCCN(C)C.Cl
reactant | 2,4-difluorobenzoic acid | 6 mmol, 0.95 g | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
reactant | 2-fluoro-1,1-dimethylethylamine hydrochloride | 6 mmol, 0.77 g | Cl.FCC(C)(C)N
reactant | HOBt | 6 mmol, 0.81 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 9 mmol, 0.91 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Fluoro-1,1-dimethylethyl)-2,4-difluorobenzamide | 0.61 g, 44% | FCC(C)(C)NC(C1=C(C=C(C=C1)F)F)=O | C11H12F3NO
